US07968571B2
To a solution of N-(4-(hydroxymethyl)-6-{methyl[(2-methylcyclopropyl)methyl]amino}pyridin-2-yl)-N-methylmethanesulfonamide (480 mg, 1.53 mmol) in dichloromethane (10 mL) and DMSO (2.5 mL) was added triethylamine (1.07 mL, 7.66 mmol) and SO3-pyridine (975 mg, 6.13 mmol). The reaction mixture was stirred at rt for 0.5 h, diluted with EtOAc, washed with 1N HCl, sat'd aq NaHCO3, brine, dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography (silica, 25-50% EtOAc/hexanes) to provide N-(4-formyl-6-{methyl[(2-methylcyclopropyl)methyl]amino}pyridin-2-yl)-N-methylmethanesulfonamide. 1H NMR (400 MHz, CDCl3) δ 9.94 (s, 1H), 6.92 (s, 1H), 6.72 (s, 1H), 3.53 (A of ABX, dd, J=14.8, 6.4 Hz, 1H), 3.40 (s, 3H), 3.36 (B of ABX, dd, J=14.8, 6.8 Hz, 1H), 3.15 (s, 3H), 3.13 (s, 3H), 1.04 (d, J=6.0 Hz, 3H), 0.78-0.62 (m, 2H), 0.45-0.37 (m, 1H), 0.31-0.24 (m, 1H).

reactant | N-(4-(hydroxymethyl)-6-{methyl[(2-methylcyclopropyl)methyl]amino}pyridin-2-yl)-N-methylmethanesulfonamide | 1.53 mmol, 480 mg | OCC1=CC(=NC(=C1)N(CC1C(C1)C)C)N(S(=O)(=O)C)C | C14H23N3O3S
reactant | triethylamine | 7.66 mmol, 1.07 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-formyl-6-{methyl[(2-methylcyclopropyl)methyl]amino}pyridin-2-yl)-N-methylmethanesulfonamide | C(=O)C1=CC(=NC(=C1)N(CC1C(C1)C)C)N(S(=O)(=O)C)C | C14H21N3O3S
